US09023847B2
46. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(thiophen-3-ylmethyl)-amino]-ethyl}-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 3-thiophenecarboxaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 398 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.26 (1H, s) 7.98-8.08 (2H, m) 7.77 (1H, d, J=5.42 Hz) 7.46 (1H, d, J=5.42 Hz) 7.42 (1H, dd, J=4.93, 2.98 Hz) 7.30 (1H, dd, J=3.29, 2.66 Hz) 7.24 (1H, dd, J=2.78, 1.03 Hz) 7.05 (1H, dd, J=4.91, 1.20 Hz) 6.80 (1H, d, J=5.42 Hz) 6.43 (1H, dd, J=3.44, 1.93 Hz) 3.67 (2H, s) 3.34 (2H, d, J=5.76 Hz) 2.64 (2H, t, J=6.54 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 3-thiophenecarboxaldehyde | S1C=C(C=C1)C=O | C5H4OS
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(thiophen-3-ylmethyl)-amino]-ethyl}-amide | S1C=C(C=C1)CNCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C19H19N5OS2
